US04329457
4-Nitrobenzylidene-(6-chloro-3-pyridazinyl)-hydrazine
A mixture of 14.5 g (0.1 moles) of 6-chloro-3-pyridazinylhydrazine, 145 ml of ethanol and 15.1 g (0.1 moles) of 4-nitrobenzaldehyde is refluxed with stirring for 2 hours, cooled and 75 ml of water are added. The precipitate is filtered, washed with water, triturated with hot ethanol, filtered again and dried to give 25.4 g (91.5%) of the named compound; m.p. 290° C. (with decomposition).

reactant | 6-chloro-3-pyridazinylhydrazine | 0.1 moles, 14.5 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | ethanol | 145 ml | C(C)O | C2H6O
reactant | 4-nitrobenzaldehyde | 0.1 moles, 15.1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | water | 75 ml | O | H2O
product | 4-Nitrobenzylidene-(6-chloro-3-pyridazinyl)-hydrazine | 25.4 g, 91.5% | [N+](=O)([O-])C1=CC=C(C=NNC=2N=NC(=CC2)Cl)C=C1 | C11H8ClN5O2
